US08207344B2
3: 4-(1′-Methanesulfonyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-5-yloxymethyl)-piperidine
To a 3-necked flask with a mechanical stirrer is added 4-(1′-methanesulfonyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-5-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester (407 g, 0.90 mol) and 6N aq hydrogen chloride (2000 mL, 12.0 mol) is added dropwise at 25° C. The mixture is stirred mechanically at 25° C. for 0.5 h. 1000 mL of dichloromethane are added at 25° C. and the mixture is stirred for 20˜30 min. Layers are separated and aqueous NaOH (1500 mL, 11.6 mol) is added dropwise to the aqueous solution to pH=9˜10 at 25° C. 3200 mL of dichloromethane are added and the mixture is stirred at 25˜30° C. for 40 min. Aqueous solution of NaOH (300 mL, 2.3 mol) is added dropwise to pH >14, until complete dissolution of the solid, the solution is stirred for 20 to 30 min and layers are separated. The aqueous layer is extracted with 1700 mL of dichloromethane. The combined organic layers are washed with 900 mL of water and concentrated. The residue is used for the next step without further purification.

reactant | 4-(1′-methanesulfonyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-5-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.90 mol, 407 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1C=CC(=NC1)C=1CCN(CC1)S(=O)(=O)C | C22H33N3O5S
reactant | hydrogen chloride | 12.0 mol, 6N, 2000 mL | Cl | ClH
reactant | NaOH | 11.6 mol, 1500 mL | [OH-].[Na+]
reactant | NaOH | 2.3 mol, 300 mL | [OH-].[Na+]
solvent | dichloromethane | 3200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
product | 4-(1′-Methanesulfonyl-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl-5-yloxymethyl)-piperidine | CS(=O)(=O)N1CCC(=CC1)C1=NC=C(C=C1)OCC1CCNCC1 | C17H25N3O3S
